US09290485B2
a) (4-Azidomethyl-phenyl)-methanol
A mixture of (4-Chloromethyl-phenyl)-methanol (5 g, 31.9 mmol) and sodium azide (2.283 g, 35.1 mmol) in 50 mL DMF was stirred at 90° C. for 16 h. The reaction mixture was concentrated in vacuo and the residue was treated with DCM and extracted with water. The organic layer was dried over MgSO4 and evaporated to give the title compound which was used in the next step without further purification. 1H-NMR (CDCl3, 400 MHz) 7.38-7.31 (m, 4H), 4.52 (d, 2H, 5.6 Hz), 4.42 (s, 2H).

reactant | (4-Chloromethyl-phenyl)-methanol | 31.9 mmol, 5 g | ClCC1=CC=C(C=C1)CO | C8H9ClO
reactant | sodium azide | 35.1 mmol, 2.283 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (4-Azidomethyl-phenyl)-methanol | N(=[N+]=[N-])CC1=CC=C(C=C1)CO | C8H9N3O
